US07915443B2
(S)-5-{[3-(acetylamino)phenyl]ethynyl}-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 449, N-(3-ethynyl-phenyl)-acetamide (0.0469 g, 0.443 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (100 mg, 0.295 mmol) were reacted to give the title compound as a solid (83 mg, 0.20 mmol, 67%).

reactant | N-(3-ethynyl-phenyl)-acetamide | 0.443 mmol, 0.0469 g | C(#C)C=1C=C(C=CC1)NC(C)=O | C10H9NO
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 100 mg | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
product | (S)-5-{[3-(acetylamino)phenyl]ethynyl}-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.20 mmol, 83 mg, 67% | C(C)(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C23H19N3O3S
